### PR TITLE
map2

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Following, CoqEAL/CoqEAL#40 I'm trying to cleanup the ssrcomplements file of CoqEAL, this comes from there.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -3064,6 +3066,90 @@ Proof. by elim: s => //= i s ->. Qed.
...
+Lemma map2_rev s1 s2 : size s1 = size s2 ->
+  map2 (rev s1) (rev s2) = rev (map2 s1 s2).
+Proof. by move=> ?; rewrite map2_map_zip -rev_zip // map_rev -map2_map_zip. Qed.
+
+Lemma map2_mask m s1 s2 : map2 (mask m s1) (mask m s2) = mask m (map2 s1 s2).
+Proof.
+elim: m s1 s2 => [|[|] m IHm] [|h1 p1] [|h2 p2] //=.
+- by rewrite IHm.
+- by case: mask.
+Qed.
```
Comment (chdoc) [inline mathcomp/ssreflect/seq.v:3149]:
```suggestion
Lemma map2s0 s1 : map2 s1 [::] = [::].
Proof. by case: s1. Qed.

Lemma map2_mask m s1 s2 : map2 (mask m s1) (mask m s2) = mask m (map2 s1 s2).
Proof.
by elim: m s1 s2 => [|[|] m IHm] [|h1 p1] [|h2 p2]; rewrite /= ?IHm ?map2s0.
Qed.
```

Comment (chdoc) [reply mathcomp/ssreflect/seq.v:3149]: Well, the `map2s0` lemma should probably be moved close to the top of the section.

**Comment by proux01** [comment]
@chdoc all your comments are taken into account here.

**Comment by proux01** [comment]
Indeed `map2 f s s'` is redundant with `map (fun xy => f xy.1 xy.2) (zip s s')` and could be easily removed from CoqEAL (c.f. CoqEAL/CoqEAL#44 ), so let's close this. Thanks @chdoc and @CohenCyril for your comments!
